US07700633B2
Benzhydrylidene-(3,6-bis-benzyloxynaphthalen-2-yl)-amine (0.628 g, 1.208 mmol) is dissolved in 15 mL of THF. A solution of 1 N HCl (15 mL) is added and stirred for 30 min. The crude reaction mixture is basified to pH 14 with 1 N NaOH and extracted with EtOAc. The combined organic layers are dried and evaporated to afford an orange oil. The oil is purified on silica, eluting with 9:1 hexanes/EtOAc and then 1:1 hexanes/EtOAc, to afford 3,6-bis-benzyloxynaphthalen-2-ylamine.

reactant | Benzhydrylidene-(3,6-bis-benzyloxynaphthalen-2-yl)-amine | 1.208 mmol, 0.628 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=CC2=CC=C(C=C2C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C37H29NO2
reactant | HCl | 1 N, 15 mL | Cl | ClH
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3,6-bis-benzyloxynaphthalen-2-ylamine | C(C1=CC=CC=C1)OC=1C(=CC2=CC=C(C=C2C1)OCC1=CC=CC=C1)N | C24H21NO2
